US09290511B2
ii) Methyl-2-chloro-4-[3-(methoxymethyl)-8-azabicyclo[3.2.1]octan-8-yl]-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate
3-(Methoxymethyl)-8-azabicyclo[3.2.1]octane (0.106 g, 0.683 mmol) was dissolved in ethanol (2 mL) and dichloromethane (2 mL). Triethylamine (0.166 mL, 1.18 mmol) and methyl 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate (0.200 g, 0.590 mmol) were added and the mixture was stirred at room temperature for 5 hr. It was diluted with dichloromethane (2 mL) and water (2 mL). The layers were separated and the aqueous was extracted with dichloromethane (2×2 mL). The combined organic layers were evaporated to give a yellow oil (281 mg). This was purified by silica chromatography (10 g cartridge; eluent petroleum ether 40-60/ethyl acetate 0 to 20%; all output collected). Fractions corresponding to the main peak were combined and evaporated to give the target compound as a yellow solid (0.177 g). m/z [M+H]+458.0/460.0. Retention time 5.30 min (LCMS method+ve 6 min).

reactant | 3-(Methoxymethyl)-8-azabicyclo[3.2.1]octane | 0.683 mmol, 0.106 g | COCC1CC2CCC(C1)N2 | C9H17NO
reactant | Triethylamine | 1.18 mmol, 0.166 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate | 0.590 mmol, 0.200 g | ClC=1N=C(C2=C(N1)SC(=C2C2=CC=CC=C2)C(=O)OC)Cl | C14H8Cl2N2O2S
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
product | Methyl-2-chloro-4-[3-(methoxymethyl)-8-azabicyclo[3.2.1]octan-8-yl]-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate | 281 mg | COC(=O)C1=C(C2=C(N=C(N=C2N2C3CC(CC2CC3)COC)Cl)S1)C1=CC=CC=C1 | C23H24ClN3O3S
